data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-c1cnccc1_2-F_3-I_4-F","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["c1cnccc1NC(=O)C(F)(I)Oc1ccc(F)cc1","CC[O-]"],"products_smiles": ["c1cnccc1N(c1ccc(F)cc1)C(=O)C(F)(I)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1cnccc1[N-]C(=O)C(F)(I)Oc1ccc(F)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(F)=C1)OC(F)(I)C(N2c1cnccc1)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1cnccc1N(c1ccc(F)cc1)C(=O)C(F)(I)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1cnccc1N(c1ccc(F)cc1)C(=O)C(F)(I)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-044_1-C1CCCCC1_2-c1cnccc1_3-C1CCCCC1_4-C(F)(F)F_5-C1CCCCC1_6-CC","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](C1CCCCC1)(c1cnccc1)C(C1CCCCC1)(C(F)(F)F)[N+](C1CCCCC1)(CC)[O-]"],"products_smiles": ["C(C1CCCCC1)(c1cnccc1)=C(C1CCCCC1)(C(F)(F)F)","O[N](C1CCCCC1)(CC)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCCC1)(c1cnccc1)=C(C1CCCCC1)(C(F)(F)F).O[N](C1CCCCC1)(CC)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
